US04427441
Preparation of N-[2-Nitro-5-(2-cyano-4-trifluoromethylphenoxy)benzoyl]phthalimide
The N-potassium salt of phthalimide (0.025 mole) dissolved in dimethylformamide (50 ml) and 2-nitro-5-(2-cyano-4-trifluoromethylphenoxy)benzoyl chloride (0.025 mole) are charged into a glass reaction vessel equipped with a mechanical stirrer and thermometer. The reaction mixture is stirred at room temperature for a period of about 8 hours. After this time the mixture is poured into water (150 ml) and is extracted twice with toluene. The toluene extracts are combined and stripped of solvent leaving a solid residue. This residue is recrystallized to yield the desired product N-[2-nitro-5-(2-cyano-4-trifluoromethylphenoxy)benzoyl]phthalimide.

reactant | phthalimide | 0.025 mole | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | 2-nitro-5-(2-cyano-4-trifluoromethylphenoxy)benzoyl chloride | 0.025 mole | [N+](=O)([O-])C1=C(C(=O)Cl)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)C#N | C15H6ClF3N2O4
reactant | water | 150 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-[2-nitro-5-(2-cyano-4-trifluoromethylphenoxy)benzoyl]phthalimide | [N+](=O)([O-])C1=C(C(=O)N2C(C=3C(C2=O)=CC=CC3)=O)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)C#N | C23H10F3N3O6
